US06462075B1
2,6-Dichlorochalcone.
(31) (Canadian Journal of Chemistry. 1968 46, 1952-6). To a solution of 2,6-dichlorobenzaldehyde (1.75 g, 10.0 mmol) and acetophenone (1.20 g, 10.0 mmol) in 30.0 ml of methanol was added 4.4 ml of 40% sodium hydroxide in water at 10° C. After stirring for 3 hours at room temperature, a solid appeared and was filtered. The precipitate was recrystallized from methanol to afford 1.68 g (60.6%) of yellow needles: mp 84.5-85.3° C. (lit. mp 83° C. Kuck and Grutzmacher, Org. Mass. Spect. 1978, 13, 90-102). 1H NMR (250 MHz) δ 8.05-8.01 (m, 2H), 7.90-7.84 (d, 1H), 7.70-7.64 (d, 1H), 7.62-7.48 (m, 3H), 7.41-7.37 (d, 2H), 7.24-7.18 (dd, 1H); 13C NMR (62.7 MHz) 190.3, 139.0, 135.3 133.3 132.8, 130.7, 130.0, 129.0, 128.9 ppm.

reactant | 2,6-dichlorobenzaldehyde | 10.0 mmol, 1.75 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | acetophenone | 10.0 mmol, 1.20 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | sodium hydroxide | 4.4 ml | [OH-].[Na+]
solvent | methanol | 30.0 ml | CO | CH4O
solvent | water | O | H2O
product | 2,6-Dichlorochalcone | 1.68 g, 60.6% | ClC1=C(C(=CC=C1)Cl)C=CC(=O)C1=CC=CC=C1 | C15H10Cl2O
